US07094769B2
N-(2-Aminoethyl)-9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxamide
A mixture of methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 16) (0.52 g, 1.03 mmol) and 1,2-ethylenediamine (0.6 g, 10 mmol) was heated at 105° C. for 3 hours. The mixture was dissolved in a little dichloromethane and purified by column chromatography on silica gel eluting with dichloromethane:methanol:concentrated aqueous ammonia (85:15:1.5, by volume). After evaporation of appropriate fractions the residue was triturated with diethyl ether, filtered and dried to yield the target compound as a white solid, (0.43 g, 78%).

reactant | methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 1.03 mmol, 0.52 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C26H27N5O6
reactant | 1,2-ethylenediamine | 10 mmol, 0.6 g | C(CN)N | C2H8N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Aminoethyl)-9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxamide | 0.43 g, 78% | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N7O5
